US08377922B2
(10-Phenyl)decyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)-ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride
984 mg (1.74 mmol) of (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetra-hydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid obtained in Example 5-(a) and 2.12 g (8.68 mmol) of 10-phenyl-1-decyl alcohol were mixed, 17.4 mL (69.6 mmol) of 4N hydrogen chloride/1,4-dioxane solution was added to the mixture, and the resulting mixture was stirred under nitrogen gas atmosphere at 50° C. for 4 hours.

reactant | (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetra-hydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid | 1.74 mmol, 984 mg | O=C1N(CC2=C(C[C@H]1CC(=O)O)C=CC(=C2)OCCC=2N=C1N(CCCN1C(=O)OC(C)(C)C)C2)CC(F)(F)F | C27H33F3N4O6
reactant | 10-phenyl-1-decyl alcohol | 8.68 mmol, 2.12 g | C1(=CC=CC=C1)CCCCCCCCCCO | C16H26O
reactant | hydrogen chloride 1,4-dioxane | 69.6 mmol, 4N, 17.4 mL | Cl.O1CCOCC1
product | (10-Phenyl)decyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)-ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride | Cl.O=C1N(CC2=C(C[C@H]1CC(=O)OCCCCCCCCCCC1=CC=CC=C1)C=CC(=C2)OCCC=2N=C1N(CCCN1)C2)CC(F)(F)F | InChI=1S/C38H49F3N4O4.ClH/c39-38(40,41)28-45-26-32-24-34(48-22-18-33-27-44-20-12-19-42-37(44)43-33)17-16-30(32)23-31(36(45)47)25-35(46)49-21-11-6-4-2-1-3-5-8-13-29-14-9-7-10-15-29;/h7,9-10,14-17,24,27,31H,1-6,8,11-13,18-23,25-26,28H2,(H,42,43);1H/t31-;/m0./s1
